* C:\Users\cavaz\OneDrive\Documentos\Projetos\Projetos_Python\IC\Alexandria\code\circuit.asc
R0 N002 N001 200
V0 N001 0 20
V1 N002 0 10
I0 0 N001 30
.tran 1
.backanno
.end
