* C:\Users\cavaz\OneDrive\Documentos\Projetos\Projetos_Python\IC\Alexandria\code\circuit.asc
R0 N002 N001 200
R1 N003 0 100k
I0 N002 N003 30
V0 N001 0 20
V1 N003 0 10
.tran 1
.backanno
.end
